US07687664B2
Methyl (3′-benzyloxy-4′-methoxybiphenyl-3-yl)acetate
1.753 g of 2-Benzyloxy-1-methoxybenzeneboronic acid was suspended in 50 ml of diethyl ether, and 0.49 ml of propylene glycol was added thereto. The mixture was stirred at room temperature for 1 hour, and the solvent was removed to give 2-(3-benzyloxy-4-methoxyphenyl)-[1,3,2]dioxaborynane. This product was dissolved in 30 ml of 1,2-dimethoxyethane, then 1.5 g of potassium carbonate, 1.9 g of methyl 3-bromophenylacetate and 270 mg of dichlorodiphenyl phosphinoferrocene palladium were added thereto, and the mixture was stirred at 80° C. for 3 hours in a nitrogen atmosphere. The reaction mixture was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography, to give 1.356 g of the title compound in the 6:1→4:1 fraction.

reactant | 2-Benzyloxy-1-methoxybenzeneboronic acid | 1.753 g | C(C1=CC=CC=C1)OC1C(C=CC=C1)(B(O)O)OC | C14H17BO4
reactant | propylene glycol | 0.49 ml | C(C(C)O)O | C3H8O2
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 3-bromophenylacetate | 1.9 g | BrC=1C=C(C=CC1)CC(=O)OC | C9H9BrO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | 1,2-dimethoxyethane | 30 ml | COCCOC | C4H10O2
catalyst | dichlorodiphenyl phosphinoferrocene palladium | 270 mg | [Pd].ClC1=C(C(=C([C-]1P)C1=CC=CC=C1)C1=CC=CC=C1)Cl.[CH-]1C=CC=C1.[Fe+2]
product | Methyl (3′-benzyloxy-4′-methoxybiphenyl-3-yl)acetate | 1.356 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)OC | C23H22O4
